US05021478
2,4-Bis(2,4-dimethylphenyl)-6-(2,4-dihydroxyphenyl)-s-triazine
The title compound is prepared by the reaction of cyanuric chloride with m-xylene followed by reaction with resorcinol. Aluminum chloride is used as a reagent in both reactions.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | Aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | 2,4-Bis(2,4-dimethylphenyl)-6-(2,4-dihydroxyphenyl)-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)O)O | C25H23N3O2
